Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hepatic encephalopathy, shortness of breath
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ w/ PMH of HCV induced cirrhosis c/b esophageal varices s/p
TIPS on ___ and HCC w/ bx proven mets to left adrenal 
gland;
history ADHD, bipolar disorder, GERD, asthma/COPD, and ___
esophagus presented to OSH with SOB. Patient states that
shortness of breath began yesterday and is not exertional. 
Denies
cough, fever, chest pain, leg swelling, abdominal pain, or
distention. Patient is poor historian. He was transferred here
because he is followed by liver here.

Per review of the ___ note (where he presented on ___,
patient's emergency room course there is summarized as below:
-Presented for evaluation of gradually worsening shortness of
breath over the course of several hours.
-Review of systems positive for epistaxis from the left nare. 
Otherwise notable for no headache, abdominal pain,
nausea/vomiting.
-Lab work notable for mild hyponatremia at 130, troponin of 
0.03,
AST 216, ALT 78, T bili 3.9.
-Patient was given nasal Afrin and thrombin oxygen for his
nosebleed, to improvement of his epistaxis.
-Patient was transferred to ___
per his preference, as he has hepatology following him here.

In the ED, initial VS were:  T 98.1 BP 123/76 HR 98 RR 17 O2 94%
on RA
Exam notable for:  
"A&Ox3
lungs clear
blood in nares
no ___ edema...
No tappable pocket on bedside ultrasound"
EKG:  
Compared to prior EKG dated ___.
Sinus rhythm at a rate of 61 bpm.  Irregular baseline in the 
limb
leads, with small P waves discerned in V3 to V6; this is similar
to the prior EKG.  Normal axis.  Normal intervals.  Compared to
prior EKG, T-wave inversion in V2 has resolved.  There are no 
new
ischemic changes noted.

Labs showed:  
-Lactate 1.5
-VBG pH 7.43/PCO2 41
-Renal panel notable for mild elevation BUN (21)
-Hepatic panel notable for AST 221, ALT 81, alkaline phosphatase
143, T bili 3.9.  The patient's most recent liver function test
prior to this were on ___, and are notable for: ALT 59, AST
192, alk phos 245, T bili 3.2.
-White blood cell count 3.1, hemoglobin 9.3 (baseline appears to
be ___, platelets 112 (MCV 103)
-INR 1.6
-ProBNP 307
-Urinalysis notable for small blood, few bacteria

Imaging showed:
-Right upper quadrant ultrasound (___):
1. Cholelithiasis without findings of cholecystitis with the CBD
not well evaluated on this study.
2. Patent TIPS. Cirrhotic liver with 2.3 cm hepatic mass in
keeping with known history of HCC.
3. Sequelae of portal hypertension including mild abdominal
ascites and splenomegaly.
4. Left adrenal metastasis better characterized on CT from ___.
-CXR:
Mild blunting of the right costophrenic angles compatible with
small pleural effusion.
-___ facility CT head (___): Performed, over-read not
done.

Consults:  
-Hepatology: Reviewed.  As per ED dash, "Likely decompensated
liver cirrhosis/AMS in setting of lactulose noncompliance."

Patient received:
-1 g levetiracetam
-25 mg spironolactone
-30 mL lactulose
-550 mg rifaximin
-10 mg aripiprazole
 
Transfer VS were: T 98.5 BP 114/69 HR 86 RR 16 O2 94% on RA

On arrival to the floor, patient reports that his breathing is
much improved. He notes that his breathing was poor due to the
heat and humidity, but is back to baseline now that he is in an
air-conditioned environment. He report some forgetfulness in
addition to insomnia, but mentions this is at baseline. He
reports taking lactulose ___ times/day at home and notes that he
usually has 4 BMs/day. However, in the couple days prior to
admission, he had 2 BMs/day. He denies any alcohol intake (says
last drink was ___ years ago). He also denies any recreational 
drug
use, but does report smoking 3 cigarettes per day. He denies any
fevers, chills, sweats, productive cough, nausea, vomiting,
abdominal pain, abdominal swelling, sick contacts, peripheral
edema.
 
Past Medical History:
-bipolar disorder  
-attention deficit disorder  
-Insomnia  
-hepatitis C with cirrhosis  
-tobacco abuse  
-COPD  
-gastroesophageal reflux with ___ esophagus  

 
Social History:
___
Family History:
No known family history of liver disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  97.6PO BP96 / 59 HR80 RR18 saO2 92Ra
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, mildly icteric sclera, pink
conjunctiva, MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, normal S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: Normoactive bowel sounds.  Abdomen is soft,
nondistended, nontender in all quadrants, with no
rebound/guarding.  Liver edge palpable 3cm below R costal 
margin.
Spleen palpable 7cm below L costal margin.
EXTREMITIES: Warm and well perfused.  No cyanosis, clubbing or
edema. 
PULSES: 2+ DP pulses bilaterally  
NEURO: Alert, oriented to self and location, not to date.
Attentive to DOWB but making errors (___).
CN II-XII intact.  Moving all four extremities with purpose. No
asterixis.
SKIN: No excoriations or lesions, no rashes 

DISCHARGE PHYSICAL EXAM:
VS:  T 98 BP 98/64 HR 73 RR 18 O2 95% on RA
GENERAL: NAD  
HEENT: AT/NC, sclerae mildly icteric  
NECK: nontender supple neck, no LAD, no frank JVD  
HEART: RRR, normal S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: Normoactive bowel sounds.  Abdomen is soft,
nondistended, nontender in all quadrants, with no
rebound/guarding.  Liver edge palpable 3cm below R costal 
margin.
Spleen palpable 7cm below L costal margin.
EXTREMITIES: Warm and well perfused.  No cyanosis, clubbing or
edema. 
PULSES: 2+ DP pulses bilaterally  
NEURO: Alert, oriented to self and location, not to date.
Does not cooperate with days of the week testing or other 
orientation questions.  CN II-XII intact.  Moving all four 
extremities with purpose. No
asterixis.

 
Pertinent Results:
ADMISSION LABS:
___ 07:02AM   ___ PO2-40* PCO2-41 PH-7.43 TOTAL CO2-28 
BASE XS-2
___ 06:48AM   LACTATE-1.5
___ 06:45AM   GLUCOSE-98 UREA N-21* CREAT-0.9 SODIUM-137 
POTASSIUM-4.7 CHLORIDE-100 TOTAL CO2-26 ANION GAP-11
___ 06:45AM   estGFR-Using this
___ 06:45AM   ALT(SGPT)-81* AST(SGOT)-221* ALK PHOS-143* 
TOT BILI-3.9*
___ 06:45AM   cTropnT-<0.01
___ 06:45AM   proBNP-307*
___ 06:45AM   ALBUMIN-2.6* CALCIUM-8.5 PHOSPHATE-3.2 
MAGNESIUM-2.1
___ 06:45AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 06:45AM URINE  HOURS-RANDOM
___ 06:45AM URINE  UHOLD-HOLD
___ 06:45AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 06:45AM   WBC-3.1* RBC-2.75* HGB-9.3* HCT-28.3* 
MCV-103* MCH-33.8* MCHC-32.9 RDW-18.2* RDWSD-67.4*
___ 06:45AM   NEUTS-67.8 ___ MONOS-10.3 EOS-1.3 
BASOS-1.0 IM ___ AbsNeut-2.11 AbsLymp-0.59* AbsMono-0.32 
AbsEos-0.04 AbsBaso-0.03
___ 06:45AM   PLT COUNT-112*
___ 06:45AM   ___ PTT-44.6* ___
___ 06:45AM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 06:45AM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-TR* BILIRUBIN-NEG UROBILNGN-4* PH-6.0 
LEUK-NEG
___ 06:45AM URINE  RBC-16* WBC-4 BACTERIA-FEW* YEAST-NONE 
EPI-0

INTERVAL/DISCHARGE LABS & STUDIES:
___ CXR: IMPRESSION: 
Mild blunting of the right costophrenic angles compatible with 
small pleural effusion.

___ ABDOMINAL U/S:IMPRESSION: 
1. Patent TIPS.
2. Cholelithiasis.  Common bile duct not definitively visualized 
on this study.
3. Cirrhotic liver with 2.3 cm left hepatic mass in keeping with 
known OPTN 5B lesion as characterized on multiphasic CT of the 
liver from ___.
4. Sequelae of portal hypertension including mild abdominal 
ascites and
splenomegaly.
5. Left adrenal metastasis better characterized on prior CT.

___ 06:45AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

DISCHARGE LABS:
___ 06:00AM BLOOD WBC-3.4* RBC-2.51* Hgb-8.4* Hct-25.9* 
MCV-103* MCH-33.5* MCHC-32.4 RDW-17.5* RDWSD-66.6* Plt ___
___ 06:00AM BLOOD ___ PTT-36.3 ___
___ 06:00AM BLOOD Glucose-138* UreaN-21* Creat-0.8 Na-130* 
K-5.3 Cl-98 HCO3-23 AnGap-9*
___ 06:00AM BLOOD ALT-74* AST-203* AlkPhos-124 TotBili-3.8*
___ 06:00AM BLOOD Albumin-2.3* Calcium-8.2* Phos-3.2 Mg-2.___RIEF HOSPITAL COURSE:
___ y/o male with a PMHx of HCV (GT3a, treatment failure x2: 
Epclusa+RBV completed ___, previously treated w/Harvoni 
which was interrupted because apparently pt lost insurance) 
induced cirrhosis c/b esophageal varices s/p TIPS on ___ 
and HCC w/ bx proven mets to left adrenal gland; s/p RFA on 
___ to ___ lesion and RFA on ___ to large left 
adrenal met and with a history ADHD, bipolar disorder, GERD, 
asthma/COPD, and ___ esophagus, presenting with shortness 
of breath, found to have altered mental status. 

His shortness of breath he attributed to the hot weather and 
improved once he was in an air-conditioned environment.  He 
never had signs of volume overload His AMS was attributed to 
hepatic encephalopathy in the setting of decreased stooling. He 
reports taking his lactulose at home, but only had 2 BMs/day 
prior to admission instead of his usual 4. In the hospital, his 
lactulose was uptitrated with improvement of his mental status 
back to baseline.

TRANSITIONAL ISSUES:
[ ] GOALS OF CARE DISCUSSION:
- Patient without clear understanding of the next steps of 
therapy for his liver cancer.  Per last clinic note, it had been 
suggested that he meet with Palliative Care as there are no 
further therapies to treat his cancer.  We discussed this fact, 
and the patient was in understanding that there were no 
treatments to offer for his liver cancer.
- Please help the patient schedule a palliative care appointment 
to address his symptomatology, as well as psychosocial awareness 
of his prognosis.
- Please discuss transition of code status in the future, as he 
wishes to remain full code at this time.

[ ] MEDICATION CHANGES:
- Added:  Folate, thiamine, multivitamin

[ ] MEDICATION TITRATION (LACTULOSE):
- Please ensure that the patient is taking lactulose every day.
- He should take lactulose four times daily as prescribed, or 
until he reaches ___ soft bowel movements per day.
- If he is having frank diarrhea or more than 5 stools in a day, 
it is ok to hold the next scheduled dose of lactulose.

[ ] CODE: Full (confirmed)  
[ ] CONTACT:  ___ (brother) ___

ACTIVE ISSUES:
# ALTERED MENTAL STATUS:
# HEPATIC ENCEPHALOPATHY
DDx includes hepatic encephalopathy from medication 
noncompliance vs infection vs alcohol intoxication (see 
transaminitis, below) vs toxin ingestion. Infection is unlikely 
at this point given no localizing symptoms and no ascites (no 
concern for SBP). Urine tox screen was negative. The patient was 
started on empiric folate, thiamine, multivitamin. He was given 
lactulose 30mL TID, rifaximin 550mg BID with improvement of his 
confusion.  He verbalized understanding that he needs to take 
lactulose every day, multiple times per day, in order to clear 
his confusion.

# ELEVATED BUN with
# EPISTAXIS:
Mild, to 21, without elevation in creatinine.  Possibly due to 
ingested blood from nosebleed.  Resolved on its own with stable 
CBC.

# TRANSAMINITIS, AST > ALT:
Most concerning for alcohol intoxication, though elevated AST 
could also reflect muscle breakdown in setting of AMS/fall/being 
down for prolonged periods of time. Pt denies EtOH. Could also 
be drug effect from his antipsychotics (eg. quetiepine). No 
clear offender, but downtrending at time of discharge.

# COAGULOPATHY:
Mild, INR baseline 1.3-1.4.  Stable in setting of his liver 
disease. Trended on daily labs.

CHRONIC/STABLE ISSUES:
# HISTORY OF CIRRHOSIS:
-Volume:  Albumin was given PRN
-Infection:  No ascites to suggest SBP, other blood/urine
cultures without growth.
-Bleeding:  continued home propranolol
-Encephalopathy:  Lactulose TID and rifaximin 550mg BID.
-Screening:  Pt has known HCC (from HCV, previously treated with 
interrupted Harvoni but completed Epclusa/ribavirin on ___. 
He has undergone RFA of a segment IV lesion and L adrenal 
metastasis.  

# HISTORY OF METASTATIC HEPATOCELLULAR CARCINOMA:
Per last liver clinic note, the patient has a very poor 
prognosis given his multi-focal hepatocellular carcinoma.  He 
was deemed not likely to benefit from systemic chemotherapy 
given his overall poor functional status.  He had previously 
been referred to palliative and hospice care for support.  
Palliative care was consulted in house for symptom control, and 
an introduction to their service.  We are planning to schedule 
him an appointment soon to see the Palliative Care team to 
discuss symptom-focused care, as there is no other treatment 
available for his hepatocellular carcinoma.  The patient 
discussed this with our team and Palliative Care physicians; as 
of our final conversation, he was able to verbalize that there 
were no treatment options to reverse or cure his hepatocellular 
carcinoma.

#COPD: Home Breo was not available. Exchanged with 
fluticasone/salmeterol in-house, resumed breo at discharge.

#ADHD, Bipolar: continued home aripripazole, keppra, quetiepine
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
2. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheeze, SOB 
3. ARIPiprazole 10 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Famotidine 20 mg PO BID 
6. LevETIRAcetam 1000 mg PO BID 
7. Magnesium Oxide 400 mg PO DAILY 
8. Omeprazole 40 mg PO DAILY 
9. Propranolol 20 mg PO DAILY 
10. QUEtiapine Fumarate 600 mg PO QHS 
11. Rifaximin 550 mg PO BID 
12. Spironolactone 25 mg PO DAILY 
13. Tiotropium Bromide 1 CAP IH DAILY 
14. TraZODone 200 mg PO QHS 
15. Vitamin D ___ UNIT PO 1X/WEEK (MO) 
16. Breo Ellipta (fluticasone-vilanterol) 100-25 mcg/dose 
inhalation DAILY 
17. Meclizine 25 mg PO Q8H:PRN dizziness 
18. Robafen Cough (dextromethorphan HBr) 15 mg oral Q4H:PRN 
19. Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
20. Lactulose 30 mL PO QID 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 
3.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth Daily 
Disp #*30 Tablet Refills:*0 
4.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
5.  Albuterol Inhaler ___ PUFF IH Q4H:PRN wheeze, SOB  
6.  ARIPiprazole 10 mg PO DAILY  
7.  Aspirin 81 mg PO DAILY  
8.  Breo Ellipta (fluticasone-vilanterol) 100-25 mcg/dose 
inhalation DAILY  
9.  Famotidine 20 mg PO BID  
10.  Lactulose 30 mL PO QID  
11.  LevETIRAcetam 1000 mg PO BID  
12.  Magnesium Oxide 400 mg PO DAILY  
13.  Meclizine 25 mg PO Q8H:PRN dizziness  
14.  Omeprazole 40 mg PO DAILY  
15.  Propranolol 20 mg PO DAILY  
16.  QUEtiapine Fumarate 600 mg PO QHS  
17.  Rifaximin 550 mg PO BID  
18.  Robafen Cough (dextromethorphan HBr) 15 mg oral Q4H:PRN  
19.  Spironolactone 25 mg PO DAILY  
20.  Tiotropium Bromide 1 CAP IH DAILY  
21.  TraZODone 200 mg PO QHS  
22.  Vitamin D ___ UNIT PO 1X/WEEK (MO)  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Acute hepatic encephalopathy, improving

Secondary diagnosis:
Hepatitis C cirrhosis
hepatocellular carcinoma
bipolar disorder
Attention deficit hyperactivity disorder

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
================================================  
Discharge Worksheet  
================================================  
Dear Mr. ___,

It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted because you were confused and feeling short 
of breath.

What was done for me while I was in the hospital?  
- While you were in the hospital, we gave you lactulose to 
improve your confusion and monitored your breathing.
- Your shortness of breath resolved upon arriving to the 
hospital.
- You spoke with us, and the Palliative Care physicians, 
regarding your advanced liver cancer.  We discussed with you 
that conventional treatments (chemotherapy, radiation, surgery) 
were not an option for your cancer because of how far it has 
spread.  You understood that, unfortunately, there were no 
further treatments to offer for your liver cancer.  We plan to 
offer you medicines to help with the symptoms of your liver 
cancer.

What should I do when I leave the hospital?  
- When you leave the hospital, be sure to make all your follow 
up appointments listed below.
- Please call the ___ Care physicians to schedule an 
appointment within the next few weeks to discuss options for 
managing the symptoms of your liver cancer.  
- Make sure to take your home lactulose to keep your mind clear. 
If you have fewer than 3 bowel movements a day, take an extra 
dose of lactulose.

We wish you the best!

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___